US06977262B2
Ethyl 4-(2,1,3-benzoxadiazol-4-yl)-4,7-dihydro-6-phenyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2,1,3-benzoxadiazole-4-aldehyde, 3-aminopyrazole and ethyl benzoylacetate in the same manner as in Example 1.

reactant | 2,1,3-benzoxadiazole-4-aldehyde | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl benzoylacetate | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
product | Ethyl 4-(2,1,3-benzoxadiazol-4-yl)-4,7-dihydro-6-phenyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C(=O)OCC)C2=CC=CC=C2)=NNC1 | C21H17N5O3
